US06110929
Concentrated hydrochloric acid (18.5 mmol) was added to a solution of 2-ethylthiazolo[4,5-c]quinolin-4-amine (4.25 g) in warm isopropanol. The reaction mixture was heated at reflux to reduce the volume and remove the water. The reaction mixture was cooled to ambient temperature. The precipitate was isolated by filtration and then dried to provide 2-ethylthiazolo[4,5-c]quinolin-4-amine hydrochloride as a solid, m.p. 268-270° C. Analysis: Calculated for C12H11N3S.HCl: % C, 54.23; % H, 4.55; % N, 15.81; Found: % C, 54.25; % H, 4.63; % N, 15.71.

reactant | hydrochloric acid | 18.5 mmol | Cl | ClH
reactant | 2-ethylthiazolo[4,5-c]quinolin-4-amine | 4.25 g | C(C)C=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | C12H11N3S
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-ethylthiazolo[4,5-c]quinolin-4-amine hydrochloride | Cl.C(C)C=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | InChI=1S/C12H11N3S.ClH/c1-2-9-15-10-11(16-9)7-5-3-4-6-8(7)14-12(10)13;/h3-6H,2H2,1H3,(H2,13,14);1H
